US03957761
In the manner given in Example 27, 2'-chloro-5(trifluoromethyl)-2-[3-[(dimethylamino)methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone is heated in ethanol with hydrazine hydrate to give 8-trifluoromethyl-1-[(dimethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 2'-chloro-5(trifluoromethyl)-2-[3-[(dimethylamino)methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)C(F)(F)F)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN(C)C)=O | C28H21ClF3N5O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-trifluoromethyl-1-[(dimethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=C(C=CC=C3)Cl)C1)(F)F | C20H17ClF3N5
